US08048909B2
Ethyl 2,4-dimethyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate
Using ethyl 2,4-dimethyl-5-phenyl-1H-pyrrole-3-carboxylate (3.0 g), sodium hydride (60% in oil, 596 mg) and benzenesulfonyl chloride (1.92 mL), a procedure as in Reference Example 4 was performed to give the title compound as a brown oil (yield 506 mg, 37%).

reactant | ethyl 2,4-dimethyl-5-phenyl-1H-pyrrole-3-carboxylate | 3.0 g | CC=1NC(=C(C1C(=O)OCC)C)C1=CC=CC=C1 | C15H17NO2
reactant | sodium hydride | 596 mg | [H-].[Na+]
reactant | benzenesulfonyl chloride | 1.92 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | Ethyl 2,4-dimethyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | yield 506 mg, 37% | CC=1N(C(=C(C1C(=O)OCC)C)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C21H21NO4S
